### PR TITLE
feat(Analysis/Analytic): `HasFPowerSeriesOnBall.compContinuousLinearMap`

### PR DESCRIPTION
**Pull request by vasnesterov**
Prove `HasFPowerSeriesOnBall.compContinuousLinearMap` and its variants: if `pf` converges to `f` on the ball `B(u x0, r)` where `u` is continuous linear function, then `pf.compContinuousLinearMap u` converges to `f ∘ u` on `B(x0, r / ‖u‖)`.

---

- [ ] depends on: #26255

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Constructions.lean [hunk 1]
```diff
@@ -1233,3 +1233,106 @@ theorem HasFPowerSeriesWithinAt.unshift (hf : HasFPowerSeriesWithinAt f pf s x)
...
+      simp only [Metric.emetric_ball_nnreal, NNReal.coe_div, coe_nnnorm, Metric.mem_ball,
+        dist_zero_right] at hy2 ⊢
+      calc
+        _ ≤ _ := u.le_opNorm y
+        _ < _ := by
+          rwa [lt_div_iff₀'] at hy2
+          simpa using hu_zero
+
+theorem HasFPowerSeriesOnBall.compContinuousLinearMap (hf : HasFPowerSeriesOnBall f pf (u x) r) :
+    HasFPowerSeriesOnBall (f ∘ u) (pf.compContinuousLinearMap u) x (r / ‖u‖₊) where
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Constructions.lean:1280]: This version should follow almost immediately from the previous lemma and [hasFPowerSeriesWithinOnBall_univ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Analytic/Basic.html#hasFPowerSeriesWithinOnBall_univ)

**Comment by j-loreaux** [comment]
Of course, you'll need to merge master too.

**Comment by vasnesterov** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26268
